US06211215B1
In substantially the same manner as in Reference Example 47, 2-phenyl-5-benzoxazolecarboxamide was allowed to react with 1,3-dichloroacetone to give 5-(4-chloromethyl-2-oxazolyl)-2-phenylbenzoxazole. The yield was 65%. Recrystallization from ethyl acetate-hexane gave brown needles, mp 194-195° C.

reactant | 2-phenyl-5-benzoxazolecarboxamide | C1(=CC=CC=C1)C=1OC2=C(N1)C=C(C=C2)C(=O)N | C14H10N2O2
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 5-(4-chloromethyl-2-oxazolyl)-2-phenylbenzoxazole | yield was 65% | ClCC=1N=C(OC1)C=1C=CC2=C(N=C(O2)C2=CC=CC=C2)C1 | C17H11ClN2O2
